US08541411B2
a) 3-amino-5-chloro-2-nitrobenzoic acid
Under nitrogen, to a solution of t-BuOK (156.8 g) and Cu(OAc)2 (3.6 g) in DMF (1.2 L) was added a solution of 5-chloro-2-nitrobenzoic acid (40.0 g) and MeONH2HCl (33.2 g) in DMF (300 mL) at 0° C. After 3 h the reaction was quenched by addition of H2O (2.5 L) and acidified with 10% HCl solution to pH=1. The mixture was extracted with EA (2 L×2) and the combined organic layers were then washed with brine, dried over anhydrous Na2SO4, filtered and concentrated in-vacuo to afford the crude product as a yellow solid (43.2 g, yield 100%). 1H NMR (300 MHz, CDCl3): δ ppm 6.88 (s, 1H, J=2.4 Hz), 6.91 (d, 1H, J=2.4 Hz), 8.08 (br s, 2H); LC-MS: m/e=217 [M+1]+.

reactant | t-BuOK | 156.8 g | CC(C)(C)[O-].[K+]
reactant | 5-chloro-2-nitrobenzoic acid | 40.0 g | ClC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C7H4ClNO4
reactant | MeONH2HCl | 33.2 g | CON.Cl
solvent | DMF | 1.2 L | CN(C)C=O | C3H7NO
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
catalyst | Cu(OAc)2 | 3.6 g | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 3-amino-5-chloro-2-nitrobenzoic acid | 43.2 g, yield 100% | NC=1C(=C(C(=O)O)C=C(C1)Cl)[N+](=O)[O-] | C7H5ClN2O4
